US08497360B2
To a solution of 1-bromo-2-tert-butylbenzene (2.88 g, 13.51 mmol) in anhydrous THF (45 mL) 2,2′-dipyridyl (ca 10 mg) was added under a nitrogen atmosphere. The mixture was cooled down minus 78° C., and a solution of n-butyllithium (2.5 M in hexanes, 5.94 mL, 14.86 mmol) was added dropwise via syringe within the period of ten minutes. Upon addition, the mixture was stirred for 30 minutes, then warmed up to minus 30° C., and a flow of formaldehyde (generated from 1.91 g of paraformaldehyde by heating at over 160° C.) was passed through the solution until the deep red color disappeared completely. The mixture was quenched with saturated ammonium chloride solution (5 mL), then poured into a mixture of dichloromethane (100 mL) and water (50 mL). The organic phase was separated and the aqueous phase was extracted with dichloromethane (20 mL) twice. The combined organic phase was dried over anhydrous Na2SO4, concentrated in vacuo, and purified by silica gel chromatography to yield 2-tert-butylbenzyl alcohol (1.67 g, 75%) as an oil. 1H NMR (400 MHz, CDCl3): δ 7.50 (m, 1 H, Ph-H), 7.41 (m, 1 H, Ph-H), 7.24 (m, 2 H, Ph-H), 4.93 (d, J=4.8 Hz, 2 H, CH2OH), 1.54 (br, 1 H, CH2OH), 1.43 (s, 1 H, C(CH3)3).

reactant | 1-bromo-2-tert-butylbenzene | 13.51 mmol, 2.88 g | BrC1=C(C=CC=C1)C(C)(C)C | C10H13Br
reactant | n-butyllithium | 14.86 mmol, 2.5 M, 5.94 mL | C(CCC)[Li]
reactant | formaldehyde | 1.91 g | C=O | CH2O
solvent | THF | 45 mL, ca 10 mg | C1CCOC1 | C4H8O
product | 2-tert-butylbenzyl alcohol | 1.67 g, 75% | C(C)(C)(C)C1=C(CO)C=CC=C1 | C11H16O
